Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
cephalexin
 
Attending: ___.
 
Chief Complaint:
R foot surgical wound drainage, swelling and erythema
 
Major Surgical or Invasive Procedure:
Right ankle ex fix removal

 
History of Present Illness:
___ female with hx of hemipelvectomy at age ___ for Ewings
Sarcoma by Dr. ___ from R pilon fx  and had Right
distal tibial plafond open reduction internal fixation,
application of multiplanar external fixator by Dr. ___ on ___.
She was last seen in clinic on ___ and she had drainage and
swelling from pin sites and wound complication. Patient was
started on Keflex and plan was to ex fix removal this week and
involvement of plastic service for soft tissue coverage. 2 days
ago she started having chills and increased pain in R foot with
redness. patient went to OSH and was tx to ___ ED for further
management. 
 
Past Medical History:
hx of hemipelvectomy at age ___ for Ewings Sarcoma by Dr. ___
 
___ History:
___
Family History:
NC
 
Physical Exam:
Vitals: AVSS

General: Well-appearing female in no acute distress.

R lower extremity:
- has wound edge necrosis in both medial and lateral incision
sites. erythema of the foot with blanching, improving from 
admission 
- Soft, non-tender thigh and leg
- Full, painless ROM at hip, knee
- SILT S/S/SP/DP/T distributions
- 1+ ___ pulses, WWP
 
Pertinent Results:
___ 04:30AM   GLUCOSE-85 UREA N-23* CREAT-1.0 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-26 ANION GAP-15
___ 04:30AM   ALT(SGPT)-21 AST(SGOT)-39
___ 04:30AM   CALCIUM-9.6 PHOSPHATE-4.6* MAGNESIUM-1.4*
___ 04:30AM   CRP-107.9*
___ 04:30AM   WBC-13.6* RBC-3.05* HGB-8.9* HCT-27.5* MCV-90 
MCH-29.2 MCHC-32.4 RDW-13.2 RDWSD-43.5
___ 04:30AM   NEUTS-62.2 ___ MONOS-13.5* EOS-3.1 
BASOS-0.4 IM ___ AbsNeut-8.46* AbsLymp-2.68 AbsMono-1.84* 
AbsEos-0.42 AbsBaso-0.06
___ 04:30AM   PLT COUNT-426*
___ 01:13AM URINE  HOURS-RANDOM
___ 01:13AM URINE  HOURS-RANDOM
___ 01:13AM URINE  UHOLD-HOLD
___ 10:49PM   LACTATE-1.0
___ 01:13AM URINE  MUCOUS-RARE*
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have ****** and was admitted to the orthopedic surgery 
service. The patient was taken to the operating room on ___ 
for removal of ex-fix right ankle, which the patient tolerated 
well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient was given ___ antibiotics and 
anticoagulation per routine. The patient's home medications were 
continued throughout this hospitalization. The patient worked 
with ___ who determined that discharge to home was appropriate. 
The ___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
non weight bearing in the right lower extremity. The patient 
will follow up with Dr. ___ routine. A thorough discussion 
was had with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Promethazine 25 mg PO Q6H:PRN nausea 
4. Sertraline 100 mg PO BID 
5. TraZODone 300 mg PO QHS:PRN insomnia 
6. Ondansetron 4 mg PO Q8H:PRN n/v 
7. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
8. Docusate Sodium 100 mg PO BID:PRN constipation 
9. OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate 
10. Aspirin 325 mg PO DAILY 
11. Gabapentin 300 mg PO TID 
12. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 

 
Discharge Medications:
1.  Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*28 Capsule Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  Aspirin 325 mg PO DAILY  
4.  Atenolol 50 mg PO DAILY  
5.  Docusate Sodium 100 mg PO BID:PRN constipation  
6.  Gabapentin 300 mg PO TID  
7.  Omeprazole 20 mg PO DAILY  
8.  Ondansetron 4 mg PO Q8H:PRN n/v  
9.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate  
10.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H  
11.  Promethazine 25 mg PO Q6H:PRN nausea  
12.  Sertraline 100 mg PO BID  
13.  TraZODone 300 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right knee ex fix wound

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Leave dressing on until follow up
Keep splint clean dry intact
Take 1 week of Antibiotics
Follow up with Dr. ___ week
___ weight bearing right lower extremity
 
Followup Instructions:
___